US06248765B1
3-(1H-Imidazol-4-yl)propyl 2-(phenoxy)ethyl ether
5 mmol of sodium 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanolate and 5 mmol of 2-phenoxyethane chloride are treated as described in Example 5.

reactant | sodium 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanolate | 5 mmol | C1(=CC=CC=C1)C(N1C=NC(=C1)CCC[O-])(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
reactant | 2-phenoxyethane chloride | 5 mmol | [Cl-].O(C1=CC=CC=C1)CC
product | 3-(1H-Imidazol-4-yl)propyl 2-(phenoxy)ethyl ether | O(C1=CC=CC=C1)CCOCCCC=1N=CNC1 | C14H18N2O2
